*****************************************************************
* NXP PMF63UNE
*
* Polarity N-Channel
* Ratings 20V/5.700000E-002OHMS/2.2A
*
* Date Created Sun Feb 07 07:19:48 2016
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMF63UNE DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 3.71540824361293e-10
RLG GATE 1 0.933783939457707
LS SOURCE 8 6.51462786482691e-10
RLS2 SOURCE 8 1.63730456328093
RLS1 8 7 0.0162209362782121

RDS 7 4 3327787021.63062 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0331049249724453 TC=0.00573487248226385,-2.73293553301056E-06
RBD 9 4 0.0821411238024228 TC=0.00573487248226385,-2.73293553301056E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5517241.37931034
CGS 2 6 2.469e-10
RG 1 2 11.5

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -8	550.76
+ -6	550.7
+ -5	550.25
+ -4	549.21
+ -3	547.15
+ -2	542.04
+ -1	421.93
+ -0.5	401.2
+ -0.2	319.9
+ -0.1	318.93
+ 0	264.77
+ 0.01	243.22
+ 0.1	204.68
+ 0.5	153.54
+ 1	106.15
+ 2	76.24
+ 3	65.7
+ 4	59.34
+ 5	54.7
+ 6	51.15
+ 8	46
+ 10	42.35
+ 12	39.55
+ 15	36.4
+ 16	35.5
+ 20	32.8



.MODEL MINT NMOS(Vto=0.891645754965054 Kp=5.959795e+001 Nfs=177200000000 Eta=7000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=540)

.MODEL DBD D(Bv=25.4 Ibv=2.500000E-004 Rs=1E-6 Is=2.13169614142532e-10
+ N=1 M=0.720000000000001 VJ=0.5 Fc=0.5 Cjo=6.5980068e-11 Tt=1.85e-08)

.ENDS

