*****************************************************************
* NXP PMF250XNE
*
* Polarity N-Channel
* Ratings 30V/2.140000E-001OHMS/0.9A
*
* Date Created Mon Feb 08 07:36:40 2016
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMF250XNE DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0028
LG GATE 1 4.67727576048827e-10
RLG GATE 1 1.17552761343709
LS SOURCE 8 1.16186817822949e-09
RLS2 SOURCE 8 2.92009322653242
RLS1 8 7 0.0322418725564243

RDS 7 4 6578947368.42105 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.138316194613137 TC=0.00638526879215613,3.72007309326987E-07
RBD 9 4 0.290191733245693 TC=0.00638526879215613,3.72007309326987E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 8571428.57142857
CGS 2 6 7.247e-11
RG 1 2 21.2

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	124.69
+ -10	124.71
+ -8	124.62
+ -6	124.41
+ -5	124.14
+ -4	123.63
+ -3	122.39
+ -2	115.62
+ -1	97.52
+ -0.5	72.39
+ -0.2	58.24
+ -0.1	58.1
+ 0	47.33
+ 0.1	39.83
+ 0.2	39.98
+ 0.5	32
+ 1	23.99
+ 2	16.93
+ 3	14.69
+ 4	13.35
+ 5	12.38
+ 6	11.63
+ 8	10.53
+ 10	9.74
+ 12	9.13
+ 15	8.42
+ 16	8.22
+ 20	7.6
+ 25	7.06
+ 30	6.67



.MODEL MINT NMOS(Vto=1.20454961809838 Kp=8.659587e+000 Nfs=312800000000 Eta=2500
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=950)

.MODEL DBD D(Bv=37.4 Ibv=2.500000E-004 Rs=1E-6 Is=3.4217094682517e-12
+ N=1 M=0.53 VJ=0.5 Fc=0.5 Cjo=2.083e-11 Tt=1.85e-08)

.ENDS

