*****************************************************************
* NXP PMV120ENEA
*
* Polarity N-Channel
* Ratings 60V/1.920000E-001OHMS/2.1A
*
* Date Created Tue Dec 01 06:38:36 2015
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMV120ENEA DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565571090143
LS SOURCE 8 8.13461172766793e-10
RLS2 SOURCE 8 2.04445091547576
RLS1 8 7 0.00622901445209955

RDS 7 4 184615384615.385 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0819904902774227 TC=0.00635917655414572,2.23140922611548E-05
RBD 9 4 0.0187179952811553 TC=0.00635917655414572,2.23140922611548E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 22222222.2222222
CGS 2 6 2.75e-10
RG 1 2 8

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	343.38
+ -16	343.35
+ -15	343.29
+ -12	343.06
+ -10	342.79
+ -8	342.36
+ -6	341.52
+ -5	340.66
+ -4	338.25
+ -3	332.16
+ -2	282.71
+ -1	200.54
+ -0.5	149.77
+ -0.2	126.16
+ -0.1	125.88
+ 0	115.08
+ 0.1	103.11
+ 0.2	102.87
+ 0.5	82.73
+ 1	57.27
+ 2	44.82
+ 3	39.64
+ 4	36.14
+ 5	33.5
+ 6	31.43
+ 8	28.36
+ 10	26.14
+ 12	24.43
+ 15	22.44
+ 16	21.86
+ 20	20.05
+ 25	18.35
+ 30	17.04
+ 50	13.76
+ 60	12.75



.MODEL MINT NMOS(Vto=2.09393966769771 Kp=2.733104e+001 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=72.3 Ibv=2.500000E-004 Rs=1E-6 Is=5.50990686414872e-13
+ N=1 M=0.54 VJ=0.53 Fc=0.5 Cjo=6.555e-11 Tt=1.85e-08)

.ENDS

