********************************************************************************************************
*
* Nexperia PMV100EPA
* Polarity P - Channel
* Ratings 60V/100.0mOhm/2A
* Revision N#: 1.0
* Created on 2020-02-24 15:26:55
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT PMV100EPA D G S

* Package impedance
LD D 5 400.0p
RLD2 D 5 1.005
RLD1 5 4 2.300m
LG G 1 501.7p
RLG G 1 1.261
LS S 8 584.1p
RLS2 S 8 1.468
RLS1 8 7 4.065m

* Drain,gate and source resistances
RD 3 4 86.27m TC= 2.764m,1.001n
RG 1 2 11.00
RS 6 7 1.000u

* Body Diode
RBD 9 4 11.73m TC= 4.000m,23.00u
DBD 9 7 D_DBD
RDS 7 4 45.45G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 150.4G
CGS 2 6 590.0p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 2 3 VALUE {V(13,0)*I(V11)}
E11 12 0 2 3 1
E12 13 0 TABLE {V(12)}
+ (-10.0,1015.0)
+ (-3.24,1015.0)
+ (0.01,198.2)
+ (0.1,188.2)
+ (0.2,173.2)
+ (0.5,140.3)
+ (1.0,110.7)
+ (2.0,84.44)
+ (3.0,71.31)
+ (4.0,62.99)
+ (5.0,57.08)
+ (6.0,52.59)
+ (8.0,46.23)
+ (10.0,41.83)
+ (12.0,38.54)
+ (15.0,34.87)
+ (20.0,30.66)
+ (30.0,25.7)
+ (50.0,23.07)
+ (60.0,21.87)
+ (80.0,20.84)
+ (100.0,23400000000000.0)

.MODEL MINT PMOS Vto= -3.010 Kp= 19.72 Nfs= 640.8G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 808.8

.MODEL D_DBD D Bv= 74.12 Ibv= 250.0u Rs= 1.000u Is= 112.1f
+ N= 1.000 M= 461.1m VJ= 332.1m Fc= 500.0m Cjo= 344.9p Tt= 18.50n

.ENDS PMV100EPA

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************